US07105531B2
4-(2,4-Dichlorophenylamino)benzo[3,2-b]pyridine-3-carbonitrile
A mixture of 250 mg (1.02 mmol) of 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile, 530 mg (3.27 mmol) of 2,4-dichloroaniline and 112 mg of pyridine hydrochloride is heated until no 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile remained as measured by thin layer chromatography. The reaction mire is cooled to room temperature and the solid is treated with methanol and then partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether is added to the residue and the solid is collected by filtration to give 225 mg (66%) of a yellow solid. An analytical sample is obtained by column chromatography, eluting with 6:1 hexane/ethyl acetate, to provide a fight yellow solid, mp 260–262° C.

reactant | 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 1.02 mmol, 250 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
reactant | 2,4-dichloroaniline | 3.27 mmol, 530 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | pyridine hydrochloride | 112 mg | Cl.N1=CC=CC=C1
solvent | methanol | CO | CH4O
product | 4-(2,4-Dichlorophenylamino)benzo[3,2-b]pyridine-3-carbonitrile | 225 mg, 66% | ClC1=C(C=CC(=C1)Cl)NC1=C2C(=NC=C1C#N)C=CC=C2 | C16H9Cl2N3
